US06608203B2
2-Benzylamino-1-(4-methoxy-phenyl)-ethanol
To a solution of 2-benzylamino-1-(4-methoxy-phenyl)-ethanone (1.61 g, 6.30 mmol, see Preparation 60) in MeOH (60 ml) was added NaBH4 (0.48 g, 12.6 mmol) in three equal portions. The reaction was stirred at RT overnight, then it was quenched with a 1:1 mixture of water and sat. NaHCO3 (30 ml). The mixture was extracted with CH2Cl2 (3×40 ml), the organics were combined, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified via Biotage flash chromatography (SiO2, neat EtOAc) to give the title product (1.216 g, 4.72 mmol, 75% yield).

reactant | 2-benzylamino-1-(4-methoxy-phenyl)-ethanone | 6.30 mmol, 1.61 g | C(C1=CC=CC=C1)NCC(=O)C1=CC=C(C=C1)OC | C16H17NO2
reactant | NaBH4 | 12.6 mmol, 0.48 g | [BH4-].[Na+]
solvent | MeOH | 60 ml | CO | CH4O
product | 2-Benzylamino-1-(4-methoxy-phenyl)-ethanol | 4.72 mmol, 1.216 g, 75% yield | C(C1=CC=CC=C1)NCC(O)C1=CC=C(C=C1)OC | C16H19NO2
